US05889002
a) 3-Amino-5-chlorothiophene-2-sulfonic acid tert-butylamide
A solution of 38.1 g (0.15 mol) of 5-chlorothiophene-2-sulfonic acid tert-butylamide in 300 ml of dry tetrahydrofuran was cooled to -70° C, and n-BuLi (190 ml, 1.6M in hexane) was added, maintaining the temperature <-65° C. After addition, the mixture was allowed to warm to -20° C. and stirred at this temperature for 30 min. A solution of p-toluenesulfonyl azide (34 g, 0.17 mol) in 100 ml of dry tetrahydrofuran was added, maintaining the temperature at -20° C., and the cooling bath was removed. After the mixture had reached room temperature, water (100 ml) was added. The organic phase was isolated and the aqueous phase was extracted with toluene (2×50 ml). To the combined organic phases was added hexadecyltributylphosphonium bromide (7.62 g, 15 mmol) followed by the dropwise addition of a solution of sodium borohydride (6.58 g, 0.174 mol) in 20 ml of water with stirring and cooling to room temperature. The mixture was stirred over night at room temperature, and water (100 ml) was added. The organic phase was isolated, washed with water (2×100 ml), dried, and evaporated to dryness. The oily residue was dissolved in ethyl acetate (150 ml) and washed with 1N sodium hydroxide (6×100 ml). The organic phase was dried with sodium sulfate, and evaporated to afford a quantitative yield (40.6 g) of crude title compound as an oil, which was used without further purification in the next step.

reactant | 5-chlorothiophene-2-sulfonic acid tert-butylamide | 0.15 mol, 38.1 g | C(C)(C)(C)NS(=O)(=O)C=1SC(=CC1)Cl | C8H12ClNO2S2
reactant | n-BuLi | 1.6M, 190 ml | [Li]CCCC
reactant | p-toluenesulfonyl azide | 0.17 mol, 34 g | C1(=CC=C(C=C1)S(=O)(=O)N=[N+]=[N-])C | C7H7N3O2S
reactant | sodium borohydride | 0.174 mol, 6.58 g | [BH4-].[Na+]
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | hexadecyltributylphosphonium bromide | 15 mmol, 7.62 g | [Br-].C(CCCCCCCCCCCCCCC)[P+](CCCC)(CCCC)CCCC
solvent | water | 20 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | 3-Amino-5-chlorothiophene-2-sulfonic acid tert-butylamide | 40.6 g, quantitative yield | C(C)(C)(C)NS(=O)(=O)C=1SC(=CC1N)Cl | C8H13ClN2O2S2
